US08258144B2
A solution of 2,4-dichloro-7H-pyrrolo[2,3-d]pyrimidine (188 mg, 1.00 mmol), 2-(4-piperidinyl)acetic acid ethyl ester (171 mg, 1.00 mmol) and DIEA (0.400 mL, 2.30 mmol) in dioxane (6 mL) was stirred at 70° C. for 20 h. Water and EtOAc were added. The organic phase was separated, washed with 1N HCl, dried over Na2SO4, concentrated in vacuo to give ethyl 2-(1-(2-chloro-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-4-yl)acetate (308 mg).

reactant | 2,4-dichloro-7H-pyrrolo[2,3-d]pyrimidine | 1.00 mmol, 188 mg | ClC=1N=C(C2=C(N1)NC=C2)Cl | C6H3Cl2N3
reactant | 2-(4-piperidinyl)acetic acid ethyl ester | 1.00 mmol, 171 mg | C(C)OC(CC1CCNCC1)=O | C9H17NO2
reactant | DIEA | 2.30 mmol, 0.400 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl 2-(1-(2-chloro-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-4-yl)acetate | 308 mg | ClC=1N=C(C2=C(N1)NC=C2)N2CCC(CC2)CC(=O)OCC | C15H19ClN4O2
